US04724263
2-(4'-Chlorophenylacetyl)-4,4,6,6-tetramethyl-1,3,5-cyclohexanetrione
4-Chlorophenylacetic acid (1.7 g, 10 mmol) and oxalyl chloride (2 ml, 23 mmol) were stirred in 100 ml methylene chloride with two drops of dimethylformamide for two hours. The solvent and excess oxalyl chloride were removed under vacuum to give p-chlorophenylacetyl chloride. The 4-chlorophenylacetyl chloride and 4,4,6,6-tetramethyl-1,3,5-cyclohexanetrione (1.5 g, 8.2 mmol) were dissolved in methylene chloride. Triethylamine (3 ml) was added and the resulting solution stirred at room temperature for 30 minutes. The solution was washed with 1 normal hydrochloric acid (1N HCl), 5% potassium carbonate (5% K2CO3) and saturated sodium chloride (brine), dried over anhydrous magnesium sulfate (MgSO4) and concentrated under vacuum. The residue was dissolved in 15 ml acetonitrile. Triethylamine (3 ml) and acetone cyanohydrin (0.3 g) were added and the mixture stirred at room temperature for 4 hours. After dilution with ether, the solution was washed with 1N HCl and extracted with 5% K2CO3. The basic extract was acidified with hydrochloric acid and extracted with ether. The ether extract was washed with brine, dried (MgSO4) and concentrated under vacuum yielding 1.0 g of an oil that solidified on standing (m.p. 57°-61° C.). It was identified as such by nuclear magnetic resonance spectroscopy, infrared spectroscopy and mass spectroscopy.

reactant | 4-chlorophenylacetyl chloride | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | 4,4,6,6-tetramethyl-1,3,5-cyclohexanetrione | 8.2 mmol, 1.5 g | CC1(C(CC(C(C1=O)(C)C)=O)=O)C | C10H14O3
reactant | Triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(4'-Chlorophenylacetyl)-4,4,6,6-tetramethyl-1,3,5-cyclohexanetrione | 1.0 g | ClC1=CC=C(C=C1)CC(=O)C1C(C(C(C(C1=O)(C)C)=O)(C)C)=O | C18H19ClO4
